US09353211B2
Dissolve 4-hydroxybenzophenone in anhydrous THF and treat it with equimolar quantity of sodium hydride at 0° C. for 2 h. Stir and warm the suspension to 50° C. and treat it with an equimolar quantity of 3-Bromomethyl-3-hydroxymethyloxetane (readily prepared in one step by method described in U.S. Pat. No. 5,489,700 or Tet. Lett. 2011, 52, p. 565-567 from commercially available 2,2-bis-(bromomethyl)propane-1,3-diol). Stir overnight at 50° C., filter the reaction mixture, evaporate the filtrate to dryness and purify the residue by column chromatography to provide (4-{[3-(hydroxymethyl)oxetan-3-yl]methoxy}phenyl)(phenyl)methanone.

reactant | 4-hydroxybenzophenone | OC1=CC=C(C(=O)C2=CC=CC=C2)C=C1 | C13H10O2
reactant | sodium hydride | [H-].[Na+]
reactant | 3-Bromomethyl-3-hydroxymethyloxetane | BrCC1(COC1)CO | C5H9BrO2
reactant | 2,2-bis-(bromomethyl)propane-1,3-diol | BrCC(CO)(CO)CBr | C5H10Br2O2
solvent | THF | C1CCOC1 | C4H8O
product | (4-{[3-(hydroxymethyl)oxetan-3-yl]methoxy}phenyl)(phenyl)methanone | OCC1(COC1)COC1=CC=C(C=C1)C(=O)C1=CC=CC=C1 | C18H18O4
